US04996218
3-[(2-Thiazolyl)]-2-propynol
Copper (I) iodide (28.5 mg) was added to a stirred solution of 2-bromothiazole (5 g), propargyl alcohol (1.68 g), BTPC (210 mg) and DEA (2.41 g) in acetonitrile (88 ml). The mixture was stirred under nitrogen for 80 h, concentrated and partitioned between ethyl acetate (100 ml) and water (100 ml). The organic layer was dried and concentrated to yield the crude product which was purified by FCC eluting with toluene/ethyl acetate (5:2) to give the title product as a brown oil (0.68 g), t.l.c. (toluene/ethyl acetate 2:1) Rf 0.27.

reactant | 2-bromothiazole | 5 g | BrC=1SC=CN1 | C3H2BrNS
reactant | propargyl alcohol | 1.68 g | C(C#C)O | C3H4O
solvent | acetonitrile | 88 ml | C(C)#N | C2H3N
catalyst | Copper (I) iodide | 28.5 mg | [Cu]I
product | 3-[(2-Thiazolyl)]-2-propynol | 0.68 g | S1C(=NC=C1)C#CCO | C6H5NOS
